US07858646B2
Synthesis of 5-(3-(hydroxymethyl)phenylthio)nicotinonitrile
Add K2CO3 (6.91 g, 50.0 mmol) to a solution of (3-mercaptophenyl)methanol (2.94 g, 21.0 mmol) and 5-bromonicotinonitrile (3.66 g, 20.0 mmol) in DMA (100 mL). Heat the mixture at 110° C. for 2 h. Cool to room temperature. Dilute with EtOAc. Filter. Wash the residue with EtOAc. Concentrate. Dissolve the residue in EtOAc and filter. Concentrate to afford the title compound (4.80 g, quant.): 1H NMR (CDCl3) δ 2.20 (t, J=5.5 Hz, 1H), 4.74 (d, J=5.5 Hz, 2H), 7.38-7.44 (m, 3H), 7.52-7.53 (m, 1H), 7.62 (dd, J=2.0, 2.3 Hz, 1H), 8.62 (dd, J=2.0, 2.3 Hz, 2H).

reactant | K2CO3 | 50.0 mmol, 6.91 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (3-mercaptophenyl)methanol | 21.0 mmol, 2.94 g | SC=1C=C(C=CC1)CO | C7H8OS
reactant | 5-bromonicotinonitrile | 20.0 mmol, 3.66 g | BrC=1C=NC=C(C#N)C1 | C6H3BrN2
solvent | DMA | 100 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(3-(hydroxymethyl)phenylthio)nicotinonitrile | 4.80 g | OCC=1C=C(C=CC1)SC=1C=NC=C(C#N)C1 | C13H10N2OS
